US04369139
10.2 g. of p-methoxybenzoyl chloride are added at 30° C. in one portion while stirring well to 30.9 g. of 4-amino-butyric acid, 24.0 g. of sodium hydroxide and 300 ml. of ion-free water. After 2 hours, the mixture is acidified with 75 ml. of concentrated hydrochloric acid at a temperature below 10° C. The precipitate is filtered off, washed ion-free with water, dried in a drying oven at 65° C. over phosphorus pentoxide and then recrystallized from 45 ml. of acetone/low-boiling petroleum ether (3:1). There is obtained 4-(p-methoxybenzoylamino)butyric acid having a melting point of 120.5°-122° C.

reactant | p-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | 4-amino-butyric acid | NCCCC(=O)O | C4H9NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-(p-methoxybenzoylamino)butyric acid | COC1=CC=C(C(=O)NCCCC(=O)O)C=C1 | C12H15NO4
